US06887950B2
A reaction flask containing the bis(4-methoxyphenyl)-2,4,5-trimethylphenylphosphine oxide mixture (443.7 g) was charged with 48% aq. HBr (934 mL) and KBr (59.5 g). The flask was fitted with a sodium sulfite scrubber for containment of methyl bromide. The reaction mixture was heated to reflux (118° C.) and maintained at reflux until complete based on HPLC analysis. The molten product was worked up to give 283.3 g of bis(4-hydroxyphenyl)-2,4,5-trimethylphenylphosphine oxide mixture as a cream solid (68.9% yield). The ratio of products in the mixture based on 31P NMR was 39% tris(4-hydroxyphenyl)phosphine oxide, 49% bis(4-hydroxyphenyl)-2,4,5-trimethylphenylphosphine oxide, 11% di-2,4,5-trimethylphenyl-4-hydroxyphenyl-phosphine oxide, and 1% tris(2,4,5-trimethylphenyl)phosphine oxide.

reactant | bis(4-methoxyphenyl)-2,4,5-trimethylphenylphosphine oxide | 443.7 g | COC1=CC=C(C=C1)P(C1=C(C=C(C(=C1)C)C)C)(C1=CC=C(C=C1)OC)=O | C23H25O3P
reactant | HBr | 934 mL | Br | BrH
reactant | KBr | 59.5 g | [K+].[Br-]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl bromide | CBr | CH3Br
product | bis(4-hydroxyphenyl)-2,4,5-trimethylphenylphosphine oxide | 283.3 g, 68.9% yield | OC1=CC=C(C=C1)P(C1=C(C=C(C(=C1)C)C)C)(C1=CC=C(C=C1)O)=O | C21H21O3P
